US08664258B2
Preparation of N-[4-(2-Amino-2-methyl-propoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-4-trifluoromethyl-benzamide (Compound 135)
DMF (10 μL) was added to a mixture of 4-trifluoromethylbenzoic acid (61 mg, 0.32 mmol) and oxalyl chloride (27 μL, 0.32 mmol) in dichloromethane (0.5 mL) and the mixture was stirred for 45 min at room temperature. The solution of the crude acid chloride was added to a solution of 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)aniline (62 mg, 0.21 mmol) and DIEA (146 μL, 0.84 mmol) in dichloromethane (0.5 mL) and the mixture was stirred at room temperature. After 14 h, the mixture was diluted with dichloromethane, washed with 0.5M citric acid and saturated sodium bicarbonate, dried with sodium sulfate, filtered, and evaporated to dryness. The residue was suspended in methanol (1 mL) and acetylchloride (164 μL, 2.3 mmol) was added slowly. A clear solution was obtained. Zinc dust (150 mg, 2.3 mmol) was added, and the mixture was stirred at 55° C. After 2 h, the mixture was allowed to cool to room temperature, and diluted with methanol. The precipitate was removed by filtration and washed with methanol. The combined washings were evaporated to dryness. The residue was suspended in 1M HCl, the mixture was cooled on an ice bath, and made alkaline with ammonium hydroxide. The solution was extracted with ethyl acetate, and the extract was washed with brine, dried with sodium sulfate, filtered, and evaporated to dryness. The crude product was purified by RP-HPLC. The trifluoroacetate was partitioned between ethyl acetate and saturated sodium bicarbonate, the organic layer was washed with brine, dried with sodium sulfate, filtered, and evaporated to dryness to afford the free base (53 mg, 0.12 mmol, 57%). LCMS m/z (%)=433.3 (M+H 60.7%). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.95 (s, 6 H), 3.67 (s, 2 H), 3.68 (s, 3 H), 6.28 (d, j=1.77 Hz, 1 H), 7.15 (d, J=9.09 Hz, 1 H), 7.48 (d, J=1.77 Hz, 1 H), 7.70 (d, J=2.53 Hz, 1 H), 7.84 (dd, J=8.97, 2.65 Hz, 1 H), 7.92 (d, J=8.34 Hz, 2 H), 8.14 (d, J=8.08 Hz, 2 H), 10.46 (s, 1 H).

reactant | 4-trifluoromethylbenzoic acid | 0.32 mmol, 61 mg | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | oxalyl chloride | 0.32 mmol, 27 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)aniline | 0.21 mmol, 62 mg | CN1N=CC=C1C=1C=C(N)C=CC1OCC(C)([N+](=O)[O-])C | C14H18N4O3
reactant | DIEA | 0.84 mmol, 146 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | acetylchloride | 2.3 mmol, 164 μL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
catalyst | Zinc | 2.3 mmol, 150 mg | [Zn] | Zn
solvent | DMF | 10 μL | CN(C)C=O | C3H7NO
product | N-[4-(2-Amino-2-methyl-propoxy)-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-4-trifluoromethyl-benzamide | 0.12 mmol, 53 mg, 57% | NC(COC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)C(F)(F)F)=O)C=1N(N=CC1)C)(C)C | C22H23F3N4O2
